US04943580
A mixture of 2.7 parts of a sodium hydride dispersion 50% and 282 parts of N,N-dimethylformamide was stirred at room temperature under nitrogen atmosphere. 18.8 Parts of ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinecarboxylate were added portionwise to the previous mixture. Upon complete addition, stirring for continued for 1 hour at room temperature. 10 Parts of (bromomethyl)benzene were added dropwise and upon completion, stirring was continued for 1 hour. The reaction mixture was decomposed with water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and ethanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.2 parts (13.6%) of ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b] pyridin-2-yl](phenylmethyl)amino]-1-piperidinecarboxylate; mp. 115.0° C. (compound 177).

reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino]-1-piperidinecarboxylate | C(C)OCCN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)C(=O)OCC | C18H27N5O3
reactant | (bromomethyl)benzene | BrCC1=CC=CC=C1 | C7H7Br
solvent | water | O | H2O
product | ethyl 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b] pyridin-2-yl](phenylmethyl)amino]-1-piperidinecarboxylate | 13.6% | C(C)OCCN1C(=NC=2C1=NC=CC2)N(C2CCN(CC2)C(=O)OCC)CC2=CC=CC=C2 | C25H33N5O3
